US07897624B2
Step d: 4-Chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid
To a solution of ethyl 4-chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylate (172 mg, 0.75 mmol) dissolved in a 4:1 mixture of THF:MeOH (5 mL) (v:v), was added a aqueous solution of LiOH (1.52 mmol, 1M). After stirring for 40 min, the reaction mixture was acidified to pH ˜1 with HCl (1N, aq) and extracted with EtOAc (30 mL×3). The combined organic layers were washed with brine (30 mL), dried (MgSO4), filtered and concentrated under the reduced pressure to give an off-white solid as the title compound. (163 mg, 100% yield).

reactant | ethyl 4-chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 0.75 mmol, 172 mg | ClC=1C(=CN(C(C1C)=O)C)C(=O)OCC | C10H12ClNO3
reactant | MeOH | 5 mL | CO | CH4O
reactant | LiOH | 1.52 mmol, 1M | [Li+].[OH-]
reactant | HCl | 1N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
product | 4-Chloro-1,5-dimethyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid | 100% yield | ClC=1C(=CN(C(C1C)=O)C)C(=O)O | C8H8ClNO3
